US07893067B2
Step g) 4-[5-methyl-2-(4-methyl-piperazin-1-yl)-thiazol-4-yl]benzoic acid
4-[4-(4-Carboxyphenyl)-5-methylthiazol-2-yl]-piperazine-1-carboxylic acid tert-butyl ester (0.421 mmol) was dissolved in 4M HCl in 1,4-dioxane, and stirred at room temperature for 1 h. The solvent was then removed in vacuo, and the residue 4-(5-methyl-2-piperazin-1-yl-thiazol-4-yl)-benzoic acid was suspended in methanol (10 mL) and treated with AcOH/AcONa buffer (pH ˜5.5, 5 mL), and formaldehyde (0.547 mmol). The reaction mixture was stirred at room temperature for 1 h, then treated with NaCNBH3 (0.547 mmol) and stirred at room temperature overnight. The solvent was then removed under vacuum, and the residue was purified by column chromatography to afford the title compound (0.403 mmol, 95%).

reactant | 4-[4-(4-Carboxyphenyl)-5-methylthiazol-2-yl]-piperazine-1-carboxylic acid tert-butyl ester | 0.421 mmol | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1SC(=C(N1)C1=CC=C(C=C1)C(=O)O)C | C20H25N3O4S
reactant | AcOH AcONa | 5 mL, pH ˜5.5 | CC(=O)O.C(=O)(C)O[Na]
reactant | formaldehyde | 0.547 mmol | C=O | CH2O
reactant | NaCNBH3 | 0.547 mmol | [BH3-]C#N.[Na+]
solvent | HCl | 4M | Cl | ClH
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 4-[5-methyl-2-(4-methyl-piperazin-1-yl)-thiazol-4-yl]benzoic acid | 0.403 mmol, 95% | CC1=C(N=C(S1)N1CCN(CC1)C)C1=CC=C(C(=O)O)C=C1 | C16H19N3O2S
